US07241791B2
Step 2: 4-[2-allyl-7-(trifluoromethyl)-2H-indazol-3-yl]-3-methylphenol
Prepared according to Method D step C from 2-allyl-3-(4-methoxy-2-methylphenyl)-7-(trifluoromethyl)-2H-indazole (0.043 g, 0.124 mmol), boron tribromide (0.05 mL, 0.52 mmol) and 1.0 mL of cyclohexene to give the product (0.033 g) as a white solid.

reactant | 2-allyl-3-(4-methoxy-2-methylphenyl)-7-(trifluoromethyl)-2H-indazole | 0.124 mmol, 0.043 g | C(C=C)N1N=C2C(=CC=CC2=C1C1=C(C=C(C=C1)OC)C)C(F)(F)F | C19H17F3N2O
reactant | boron tribromide | 0.52 mmol, 0.05 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-[2-allyl-7-(trifluoromethyl)-2H-indazol-3-yl]-3-methylphenol | 0.033 g | C(C=C)N1N=C2C(=CC=CC2=C1C1=C(C=C(C=C1)O)C)C(F)(F)F | C18H15F3N2O
